US08383637B2
Cyclohexyl-[3-(4-nitro-3-propylaminomethyl-phenoxy)-phenyl]-carbamic acid benzyl ester
A mixture of propylamine (0.00356 mol) in DCE (70 mL) was stirred at room temperature. Cyclohexyl-[3-(3-formyl-4-nitro-phenoxy)-phenyl]-carbamic acid benzyl ester (0.00274 mol) was added. NaBH(OAc)3 (0.00438 mol) was added. The reaction mixture was stirred overnight at room temperature. A 10% NaOH solution was added and this mixture was extracted with diisopropyl ether. The separated organic layer was dried (MgSO4), filtered and the solvent evaporated. The residue was purified by column chromatography over silica gel (eluent: 100:0 to 96:4 CH2Cl2:CH3OH). The product fractions were collected and the solvent was evaporated to yield the title compound as a residue.

reactant | propylamine | 0.00356 mol | C(CC)N | C3H9N
reactant | Cyclohexyl-[3-(3-formyl-4-nitro-phenoxy)-phenyl]-carbamic acid benzyl ester | 0.00274 mol | C(C1=CC=CC=C1)OC(N(C1=CC(=CC=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])C=O)C1CCCCC1)=O | C27H26N2O6
reactant | NaBH(OAc)3 | 0.00438 mol | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | DCE | 70 mL | ClCCCl | C2H4Cl2
product | Cyclohexyl-[3-(4-nitro-3-propylaminomethyl-phenoxy)-phenyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(C1=CC(=CC=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])CNCCC)C1CCCCC1)=O | C30H35N3O5
